US05811432
C. 3-Benzyloxycarbonyl-6-trifluoromethyl-4-azaoxindole
A mechanically stirred mixture of 2-bis(benzyloxycarbonyl)methyl-3-nitro-5-trifluoromethylpyridine (1.2 g, 2.5 mmol), iron dust (495 mg, 8.9 mmol), and glacial acetic acid (50 mL) was heated at reflux for 2 hr. After cooling, the mixture was poured into ice/water. The precipitated white solid was collected by filtration, air-dried and then dried in vacuo overnight. Yield: 780 mg (93%); mp>250° C.

reactant | 2-bis(benzyloxycarbonyl)methyl-3-nitro-5-trifluoromethylpyridine | 2.5 mmol, 1.2 g | C(C1=CC=CC=C1)OC(=O)C(C1=NC=C(C=C1[N+](=O)[O-])C(F)(F)F)C(=O)OCC1=CC=CC=C1 | C23H17F3N2O6
catalyst | iron | 8.9 mmol, 495 mg | [Fe] | Fe
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 3-Benzyloxycarbonyl-6-trifluoromethyl-4-azaoxindole | C(C1=CC=CC=C1)OC(=O)C1C(NC2=CC(=CN=C12)C(F)(F)F)=O | C16H11F3N2O3
